US07037925B2
a) 7-(3-Chloropropoxy)-4-[3-(hydroxymethyl)-2-methylanilino]-6-methoxy-3-quinolinecarboxamide.
7-Hydroxy-4-[3-(hydroxymethyl)-2-methylanilino]-6-methoxy-3-quinolinecarboxamide (0.90 mg, 2.54 mmol) was dissolved in DMF (10 ml), 1-bromo-4-chlorobutane (0.28 ml, 2.79 mmol) and Cs2CO3 (1.7 g, 5.2 mmol) were added and the mixture was stirred at ambient temperature for three days. The mixture was poured out on water and extracted with methylenechloride. The residue was chromatographed on silica using ethylacetate/methanol (1:0–>5:1) as eluent, affording 550 mg (50% yield) of the titled compound.

reactant | 7-Hydroxy-4-[3-(hydroxymethyl)-2-methylanilino]-6-methoxy-3-quinolinecarboxamide | 2.54 mmol, 0.90 mg | OC1=C(C=C2C(=C(C=NC2=C1)C(=O)N)NC1=C(C(=CC=C1)CO)C)OC | C19H19N3O4
reactant | 1-bromo-4-chlorobutane | 2.79 mmol, 0.28 ml | BrCCCCCl | C4H8BrCl
reactant | Cs2CO3 | 5.2 mmol, 1.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-(3-Chloropropoxy)-4-[3-(hydroxymethyl)-2-methylanilino]-6-methoxy-3-quinolinecarboxamide | 550 mg, 50% yield | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C(=O)N)NC1=C(C(=CC=C1)CO)C)OC | C22H24ClN3O4
